US05053416
Preparation 1: [3-(4-methyloxazol-2-yl)-pyridine]
30 g of nicotinoyl chloride is added to 5.1 g of cooled acetoxime, then the mixture is heated to 130° C. The exothermic reaction mixture is maintained under agitation for 6 hours at 140° C. After cooling, iced water is added, followed by alkalizing with sodium carbonate and extracting with methylene chloride. The solvent is evaporated, the residue is taken up with ether and filtered; the solvent is evaporated and the residue is distilled at 150° C. under 0.08 mbar. 3.5 g of expected product is obtained which is purified by chromatography on silica (eluant: cyclohexane-ethyl acetate 7-3), with further distillation. After cooling, a solid product is obtained.

reactant | nicotinoyl chloride | 30 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | acetoxime | 5.1 g | CC(C)=NO | C3H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-(4-methyloxazol-2-yl)-pyridine | 3.5 g | CC=1N=C(OC1)C=1C=NC=CC1 | C9H8N2O
